US04265812
Preparation of N-(2-Potassiosulfoethyl)-N-ethylaniline
N-(2-Fluorosulfonylethyl)-N-ethylaniline (22.8 g, (0.1 m) is stirred in water (200 ml) and potassium hydroxide (10 g) for 1-3 hrs. or until thin-layer chromatography shows reaction to be complete. The product is not isolated but is used as an aqueous solution in the coupling reaction.

reactant | N-(2-Fluorosulfonylethyl)-N-ethylaniline | FS(=O)(=O)CCN(C1=CC=CC=C1)CC | C10H14FNO2S
reactant | potassium hydroxide | 10 g | [OH-].[K+]
solvent | water | 200 ml | O | H2O
product | N-(2-Potassiosulfoethyl)-N-ethylaniline | [K]C(CN(C1=CC=CC=C1)CC)S(=O)(=O)O | InChI=1S/C10H14NO3S.K/c1-2-11(8-9-15(12,13)14)10-6-4-3-5-7-10;/h3-7,9H,2,8H2,1H3,(H,12,13,14);
